US06977261B2
4-[1-Oxo-7-(3-[1,2,3]triazol-1-ylprop-1-ynyl)-1H-6-azaisoquinolin-2-ylmethyl]benzoic acid tert-butyl ester
The coupling of 4-(7-bromo-1-oxo-1H-6-azaisoquinolin-2-ylmethyl)benzoic acid tert-butyl ester (0.70 g, 1.69 mmol) with 1-prop-2-ynyl-1H-imidazole (0.45 g, 4.22 mmol) using triethylamine (0.94 mL, 6.76 mmol), CuI (0.023 g, 0.12 mmol), and Pd(Ph3P)4 (0.08 g, 0.07 mmol) in dimethyl-formamide is carried out as described in Example 1, Step (2). The silica gel mesh is purified on a 3.5×18 cm silica gel column eluted with hexanes/ethyl acetate 1:1, methylene chloride/THF 7:1, then methylene chloride/THF 4:1. Evaporation and drying will afford the desired product.

reactant | 4-(7-bromo-1-oxo-1H-6-azaisoquinolin-2-ylmethyl)benzoic acid tert-butyl ester | 1.69 mmol, 0.70 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C(C2=CC(=NC=C2C=C1)Br)=O)=O | C20H19BrN2O3
reactant | 1-prop-2-ynyl-1H-imidazole | 4.22 mmol, 0.45 g | C(C#C)N1C=NC=C1 | C6H6N2
reactant | triethylamine | 6.76 mmol, 0.94 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.12 mmol, 0.023 g | [Cu]I
catalyst | Pd(Ph3P)4 | 0.07 mmol, 0.08 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[1-Oxo-7-(3-[1,2,3]triazol-1-ylprop-1-ynyl)-1H-6-azaisoquinolin-2-ylmethyl]benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C(C2=CC(=NC=C2C=C1)C#CCN1N=NC=C1)=O)=O | C25H23N5O3
